US07241773B2
N-(4-iodophenyl)quinuclidin-3-amine
3-Quinuclidinone hydrochloride (Aldrich, 3.22 g, 20 mmol) was treated with 4-iodo-aniline (2.19 g, 10 mmol) according to the procedure of Example 30A. The title product was purified by chromatography (SiO2, CH2Cl2:MeOH:NH3.H2O, 90:10:2, Rf. 0.10) as oil (3.24 g, yield, 98%). 1H NMR (MeOH-d4, 300 MHz) δ 1.70–1.81 (m, 1H), 1.93–2.04 (m, 2H), 2.08–2.24 (m, 2H), 2.89 (ddd, J=12.9, 5.1, 2.7 Hz, 1H), 3.12–3.28 (m, 4H), 3.64 (ddd, J=12.9, 9.5, 2.4 Hz, 1H), 3.79–3.85 (m, 1H), 6.46 (dt, J=9.0, 2.7 Hz, 2H), 7.39 (dt, J=9.1, 2.7 Hz, 2H) ppm. MS (DCl/NH3) m/z 329 (M+H)+.

reactant | 3-Quinuclidinone hydrochloride | 20 mmol, 3.22 g | Cl.N12CC(C(CC1)CC2)=O
reactant | 4-iodo-aniline | 10 mmol, 2.19 g | IC1=CC=C(N)C=C1 | C6H6IN
product | N-(4-iodophenyl)quinuclidin-3-amine | IC1=CC=C(C=C1)NC1CN2CCC1CC2 | C13H17IN2
